US07691882B2
4-(2-Furan-2-yl-ethyl)-(2-nitro-ethyl)-benzene
To a mixed tetrahydrofuran-dimethyl sulfoxide (1:1, 10 mL) solution of 4-(2-furan-2-yl-ethyl)-((E)-2-nitro-vinyl)-benzene (554 mg, 2.28 mmol) described in Manufacturing Example 80-1-5 and acetic acid (0.5 mL) was added sodium borohydride (129 mg, 3.42 mmol) at room temperature while cooling appropriately under nitrogen atmosphere, which was stirred for 10 minutes at room temperature. Water was added dropwise into this reaction solution at room temperature while cooling appropriately. The reaction mixture was partitioned into water and ethyl acetate. The organic layer was washed with water and saturated aqueous sodium chloride and dried over anhydrous magnesium sulfate, and the solvent was evaporated under a reduced pressure. The residue was purified by NH silica gel column chromatography (t-butylmethyl ether:heptane=5:95) to obtain the title compound (300 mg, 53%).

reactant | tetrahydrofuran dimethyl sulfoxide | 10 mL | O1CCCC1.CS(=O)C
reactant | 4-(2-furan-2-yl-ethyl)-((E)-2-nitro-vinyl)-benzene | 2.28 mmol, 554 mg | O1C(=CC=C1)CCC1=CC=C(C=C1)\C=C\[N+](=O)[O-] | C14H13NO3
reactant | acetic acid | 0.5 mL | C(C)(=O)O | C2H4O2
reactant | sodium borohydride | 3.42 mmol, 129 mg | [BH4-].[Na+]
solvent | Water | O | H2O
product | 4-(2-Furan-2-yl-ethyl)-(2-nitro-ethyl)-benzene | 300 mg, 53% | O1C(=CC=C1)CCC1=CC=C(C=C1)CC[N+](=O)[O-] | C14H15NO3
